US09388176B2
N-(3-isopropylphenyl)-3-[2-(methylthio)-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidin-6-yl]benzamide
In a manner similar to that describe in Example 126, 2-(methylthio)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine and 3-bromo-N-(3-isopropylphenyl)benzamide were converted to the title compound.

reactant | 2-(methylthio)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine | CSC=1N=CC2=C(N1)CNC2 | C7H9N3S
reactant | 3-bromo-N-(3-isopropylphenyl)benzamide | BrC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1 | C16H16BrNO
product | N-(3-isopropylphenyl)-3-[2-(methylthio)-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidin-6-yl]benzamide | C(C)(C)C=1C=C(C=CC1)NC(C1=CC(=CC=C1)N1CC=2N=C(N=CC2C1)SC)=O | C23H24N4OS
